US08445509B2
Production of 1-(3,4-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid
Water (7.2 mL) and conc. sulfuric acid (7.2 mL) were added to 1-(3,4-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile (3.6 g, 14.6 mmol), and the mixture was stirred at 100° C. for 20 hr. The mixture was basified (pH 10) with 8N aqueous sodium hydroxide solution at 0° C. and washed with ethyl acetate. The aqueous layer was acidified (pH 3) with 6N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the obtained residue was washed with ethyl acetate/hexane (=1/1) and collected by filtration to give the title compound (2.49 g, 64%) as a thin-yellow powder.

reactant | sulfuric acid | 7.2 mL | S(O)(O)(=O)=O | H2O4S
reactant | 1-(3,4-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile | 14.6 mmol, 3.6 g | FC=1C=C(C=CC1F)N1C(C(=CC=C1C)C#N)=O | C13H8F2N2O
reactant | sodium hydroxide | 8N | [OH-].[Na+]
solvent | Water | 7.2 mL | O | H2O
product | 1-(3,4-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 2.49 g, 64% | FC=1C=C(C=CC1F)N1C(C(=CC=C1C)C(=O)O)=O | C13H9F2NO3
